US04430343
In the same manner as described in Example 1 using 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole (100.0 g), N-methylpiperazine (90.0 g) and fumaric acid (83.0 g), there are obtained crude crystals, which are recrystallized from ethanol to give 1-[2-(ethoxy)ethyl]-2-(4-methyl-1-piperazinyl)benzimidazole.3/2 fumarate (148.0 g) as colorless plates, m.p. 167.5°-168.5° C.

reactant | 2-chloro-1-[2-(ethoxy)ethyl]benzimidazole | 100.0 g | ClC1=NC2=C(N1CCOCC)C=CC=C2 | C11H13ClN2O
reactant | N-methylpiperazine | 90.0 g | CN1CCNCC1 | C5H12N2
reactant | fumaric acid | 83.0 g | C(\C=C\C(=O)O)(=O)O | C4H4O4
product | 1-[2-(ethoxy)ethyl]-2-(4-methyl-1-piperazinyl)benzimidazole | C(C)OCCN1C(=NC2=C1C=CC=C2)N2CCN(CC2)C | C16H24N4O
